US05122523
420 mg of (2R)-2-benzyl-3-benzyloxypropionic acid was dissolved in 5.5 ml of ethanol, and hydrogenated at an ordinary temperature under an atmospheric pressure for two hours in the presence of palladium black. The insolubles were removed by filtration, and then the solvent was distilled off under reduced pressure to obtain 290 mg of (2R)-2-benzyl-3-hydroxypropionic acid as colorless oily substance.

reactant | (2R)-2-benzyl-3-benzyloxypropionic acid | 420 mg | C(C1=CC=CC=C1)[C@@H](C(=O)O)COCC1=CC=CC=C1 | C17H18O3
solvent | ethanol | 5.5 ml | C(C)O | C2H6O
catalyst | palladium black | [Pd] | Pd
product | (2R)-2-benzyl-3-hydroxypropionic acid | 290 mg | C(C1=CC=CC=C1)[C@@H](C(=O)O)CO | C10H12O3
